US05278180
14 g of N-(4-methoxyphenyl)-4-nitro-3-methyl benzamide in suspension in 70 ml of thionyl chloride were heated for 20 hours at reflux. The solvent was eliminated by entrainment with benzene, and after drying under reduced pressure at ambient temperature, 15 g of N-(4-methoxyphenyl)-4-nitro-3-methylbenzene carboximidoyl chloride melting towards 80° C. were obtained.

reactant | N-(4-methoxyphenyl)-4-nitro-3-methyl benzamide | 14 g | COC1=CC=C(C=C1)NC(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C15H14N2O4
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(4-methoxyphenyl)-4-nitro-3-methylbenzene carboximidoyl chloride | 15 g | COC1=CC=C(C=C1)N=C(C1=CC(=C(C=C1)[N+](=O)[O-])C)Cl | C15H13ClN2O3
